US07368468B2
A 100 ml round bottom flask was loaded with fluvastatin methyl ester (5.0 g, 11.8 mmole), water (15 ml), EtOH (25 ml) and NaOH (0.49 g). The mixture became clear and was stirred for 4.5 h. The EtOH was evaporated, water (completing to 10 vol.) was added and extracted with ethyl acetate (2×20 ml). The aqueous phase was evaporated, then acetonitrile (70 ml) was added and the mixture was stirred at room temperature over night. The product was isolated by filtration under nitrogen flow, washed with acetonitrile (20 ml) and dried at 40° C. in a vacuum oven for 24 h to obtain 3.31 g (65%) of fluvastatin sodium crystal Form LXXIII.

reactant | fluvastatin methyl ester | 11.8 mmole, 5.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | water | 15 ml | O | H2O
reactant | NaOH | 0.49 g | [OH-].[Na+]
solvent | EtOH | 25 ml | CCO | C2H6O
product | fluvastatin sodium | 3.31 g, 65% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
